US07960369B2
tert-butyl (2E)-3-[4-(benzyloxy)phenyl]acrylate
To a solution (100 mL) of tert-butyl diethylphosphonoacetate (13.8 g, 51.8 mmol) in tetrahydrofuran was added 60% sodium hydride (2.45 g, 61.2 mmol) with stirring at 0° C., and the mixture was stirred at the same temperature for 15 min. Then, to this mixture was added dropwise a solution (138 mL) of 4-(benzyloxy)benzaldehyde (10 g, 47.1 mmol) in tetrahydrofuran with stirring at 0° C., and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was concentrated, and the residue was diluted with ethyl acetate, and washed with 5% aqueous potassium hydrogensulfate solution and saturated brine. The ethyl acetate layer was dried over magnesium sulfate, and concentrated under reduced pressure to give the title compound (13.7 g, yield 94%) as colorless crystals.

reactant | tert-butyl diethylphosphonoacetate | 51.8 mmol, 100 mL, 13.8 g | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | sodium hydride | 61.2 mmol, 2.45 g | [H-].[Na+]
reactant | 4-(benzyloxy)benzaldehyde | 47.1 mmol, 138 mL, 10 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-butyl (2E)-3-[4-(benzyloxy)phenyl]acrylate | 13.7 g, yield 94% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)/C=C/C(=O)OC(C)(C)C | C20H22O3
